US07888366B2
Guanidine carbonate (792 mg; 4.4 mmol) is suspended in a solution of 2-[2-(4-Chlorophenyl)-3-methoxymethoxypropoxy]-6-fluorobenzonitrile (769 mg; 2.20 mmol) in DMA, and heated to 135° C. for 8 hours. The solution is cooled to RT overnight and placed in a freezer at 4° C. for 24 hours. The resulting black solids are removed by filtration through paper. The filtrate is concentrated under vacuum, and purified by column chromatography (10% MeOH/EtOAc). The collected fractions are dried to give 209 milligrams of 5-[2-(4-chlorophenyl)-3-methoxymethoxy-propoxy]-quinazoline-2,4-diamine.

reactant | Guanidine carbonate | 4.4 mmol, 792 mg | C(O)(O)=O.NC(=N)N
reactant | 2-[2-(4-Chlorophenyl)-3-methoxymethoxypropoxy]-6-fluorobenzonitrile | 2.20 mmol, 769 mg | ClC1=CC=C(C=C1)C(COC1=C(C#N)C(=CC=C1)F)COCOC | C18H17ClFNO3
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 5-[2-(4-chlorophenyl)-3-methoxymethoxy-propoxy]-quinazoline-2,4-diamine | 209 milligrams | ClC1=CC=C(C=C1)C(COC1=C2C(=NC(=NC2=CC=C1)N)N)COCOC | C19H21ClN4O3
